US08957062B2
Step E: 1-(azetidin-1-yl)-2-(2-chloro-4-hydroxyphenyl) ethanone
1-(azetidin-1-yl)-2-[4-(benzyloxy)-2-chlorophenyl]ethanone (520 mg, 1.65 mmol) was dissolved in ethanol (2 ml). and palladium hydroxide on carbon (20%) (116 mg, 0.165 mmol) added. The mixture was stirred under an atmosphere of hydrogen gas at RT overnight. The mixture was filtered and the filtrate concentrated under reduced pressure. The reside was purified by column chromatography using a Biotage RP C18 cartridge (30 g) using a gradient eluant of 10-100% water:acetonitrile+0.05% formic acid. to afford the title compound. LC/MS (m/z): 226 (M+H)+.

reactant | 1-(azetidin-1-yl)-2-[4-(benzyloxy)-2-chlorophenyl]ethanone | 1.65 mmol, 520 mg | N1(CCC1)C(CC1=C(C=C(C=C1)OCC1=CC=CC=C1)Cl)=O | C18H18ClNO2
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.165 mmol, 116 mg | [OH-].[OH-].[Pd+2]
product | 1-(azetidin-1-yl)-2-(2-chloro-4-hydroxyphenyl) ethanone | N1(CCC1)C(CC1=C(C=C(C=C1)O)Cl)=O | C11H12ClNO2
